US07846959B2
To a solution of 1,1-dimethylethyl (5-chloro-3-ethynyl-2-methylphenyl)carbamate (242 mg, 0.91 mmol) in dichloromethane (2 mL) was added trifluoroacetic acid (500 μl). The solution was stirred at ambient temperature for 1 hour. The solution was partitioned between saturated sodium bicarbonate and dichloromethane. The aqueous layer was extracted twice with dichloromethane. The combined organic portions were washed with brine, dried over sodium sulfate, filtered and concentrated in-vacuo to afford an orange oil which was purified by column chromatography (silica gel, 50% dichloromethane in hexane). The product was collected to afford 60 mg, 0.36 mmol (40%) of 5-chloro-3-ethynyl-2-methylaniline as a white solid. 1H NMR (400 MHz, CDCl3): 6.90 (d, 1H), 6.63 (d, 1H), 3.71 (br s, 2H), 3.24 (s, 1H), 2.23 (s, 3H); MS (EI) for C9H8ClN: 166 (MH+).

reactant | 1,1-dimethylethyl (5-chloro-3-ethynyl-2-methylphenyl)carbamate | 0.91 mmol, 242 mg | ClC=1C=C(C(=C(C1)NC(OC(C)(C)C)=O)C)C#C | C14H16ClNO2
reactant | trifluoroacetic acid | 500 μl | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 5-chloro-3-ethynyl-2-methylaniline | 0.36 mmol, 60 mg, 40% | ClC=1C=C(C(=C(N)C1)C)C#C | C9H8ClN
